US06114332
Reduction of the known [Atwell et al., J. Med. Chem., 1987, 30, 658] 7-fluoro-9-oxoacridan-4-carboxylic acid as above gave 7-fluoroacridine-4-carboxylic acid (95%), mp (MeOH/H2O) 267-268° C. 1H NMR [(CD3)2SO] δ 7.87 (dd, J=8.4, 7.0 Hz, 1 H, H-2), 8.01 (ddd, J=9.5, 8.5, 2.3 Hz, 1 H, H-6), 8.13 (dd, J=9.3, 2.8 Hz, 1 H, H-8), 8.45 (dd, J=9.6, 5.3 Hz, 1 H, H-5), 8.54 (dd, J=8.5, 1.3 Hz, 1 H, H-1), 8.73 (dd, J=6.9, 1.4 Hz, 1 H, H-3), 9.47 (s, 1 H, H-9), 16. 53 (br s, 1 H, COOH). Anal. (C14H8FNO2) C, H, N, F.

reactant | 7-fluoro-9-oxoacridan-4-carboxylic acid | FC1=CC=C2NC=3C(=CC=CC3C(C2=C1)=O)C(=O)O | C14H8FNO3
solvent | MeOH H2O | CO.O
product | 7-fluoroacridine-4-carboxylic acid | 95% | FC1=CC=C2N=C3C(=CC=CC3=CC2=C1)C(=O)O | C14H8FNO2
